US05889002
d) N-(4-Ethoxycarbonylamino-1-methyl-5-pyrazolesulfonyl)-N'-isopropylthiourea
A mixture of 1-methyl-4-(ethoxycarbonylamino)pyrazole-5-sulfonamide (0.42 g), potassium carbonate (0.34 g) and isopropyl isothiocyanate (280 μl) in 10 ml of dry acetone was heated at 55° C. for 18 h and then evaporated to dryness. The residue was dissolved in 10 ml of water, and pH was adjusted to 2 by dropwise addition of 4M hydrochloric acid. The precipitate was filtered off, rinsed with a small amount of water and dried to give 0.38 g (64%) of the title compound; m.p. 141°-144° C.

reactant | 1-methyl-4-(ethoxycarbonylamino)pyrazole-5-sulfonamide | 0.42 g | CN1N=CC(=C1S(=O)(=O)N)NC(=O)OCC | C7H12N4O4S
reactant | potassium carbonate | 0.34 g | C([O-])([O-])=O.[K+].[K+]
reactant | isopropyl isothiocyanate | 280 μl | C(C)(C)N=C=S | C4H7NS
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | N-(4-Ethoxycarbonylamino-1-methyl-5-pyrazolesulfonyl)-N'-isopropylthiourea | 0.38 g, 64% | C(C)OC(=O)NC=1C=NN(C1S(=O)(=O)NC(=S)NC(C)C)C | C11H19N5O4S2
